US07807691B2
Methanesulfonic acid 4-methanesulfonyloxy-1-phenyl-hexyl ester
Stir methanesulfonyl chloride (2.94 g, 25.7 mmol) in dichloromethane (40 mL) in a flask that has been purged with nitrogen. Cool the mixture to −20° C. and add 1-phenyl-hexane-1,4-diol (2.0 g, 10.3 mmol) dissolved in dichloromethane (5 mL), and triethylamine (3.13 g, 30.9 mmol). After 2 h of stirring at −20° C., quench with saturated aqueous NH4Cl solution and concentrate to a quarter of the volume. Dilute with EtOAc, and wash with saturated NaHCO3 solution, water, and brine. Dry the organic portion over Na2SO4, filter, and concentrate to obtain 3.0 g (83%) of the title compound. Use with no further purification. 1H NMR (400 MHz, CD3OD): δ 7.37-7.24 (m, 5H), 4.69-4.59 (m, 1H), 4.21-4.14 (m, 1H), 3.01 (s, 3H), 2.73 (s, 3H), 1.91-1.55 (m, 6H), 0.96-0.88 (m, 3H).

reactant | methanesulfonyl chloride | 25.7 mmol, 2.94 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-phenyl-hexane-1,4-diol | 10.3 mmol, 2.0 g | C1(=CC=CC=C1)C(CCC(CC)O)O | C12H18O2
reactant | triethylamine | 30.9 mmol, 3.13 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Methanesulfonic acid 4-methanesulfonyloxy-1-phenyl-hexyl ester | 3.0 g, 83% | CS(=O)(=O)OC(CCC(C1=CC=CC=C1)OS(=O)(=O)C)CC | C14H22O6S2
